US08349824B2
a) 1-Methyl-1H-pyrazole-4-carboxylic acid dimethylamide
Methyl-1H-pyrazole-4-carboxylic acid (1.0 g, 7.93 mmol) was combined with DMF (10.0 ml) to give a light yellow solution. Triethylamine (3.3 ml, 23.8 mmol) and 2-(1H-benzo[d][1,2,3]triazol-1-yl)-1,1,3,3-tetramethylisouronium tetrafluoroborate (2.8 g, 8.72 mmol) were added. The reaction mixture was set under argon and stirred for 1 h at RT. Then dimethylamine hydrochloride (679 mg, 8.33 mmol) was added. The reaction mixture was stirred over night. The solvent was evaporated and the residue was absorbed on silica gel and chromatographed (amine silica gel cartridge, CH2Cl2). The resulting brown oil was dried at the HV over night. Yield: 1.16 g (96%); brown oil; MS: m/z=154.1 [M+H]+.

reactant | Methyl-1H-pyrazole-4-carboxylic acid | 7.93 mmol, 1.0 g | CN1N=CC(=C1)C(=O)O | C5H6N2O2
reactant | Triethylamine | 23.8 mmol, 3.3 ml | C(C)N(CC)CC | C6H15N
reactant | TBTU | 8.72 mmol, 2.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | dimethylamine hydrochloride | 8.33 mmol, 679 mg | Cl.CNC
solvent | DMF | 10.0 ml | CN(C)C=O | C3H7NO
product | 1-Methyl-1H-pyrazole-4-carboxylic acid dimethylamide | CN(C(=O)C=1C=NN(C1)C)C | C7H11N3O
